US07585885B2
Toluene-4-sulfonic acid 2,2-difluorovinyl ester
Add n-butyllithium (1.6 M in hexanes, 4.9 mL, 7.8 mmol) dropwise over 5 min to a solution of 2,2,2-trifluoroethyl-p-toluene sulfonate (1.0 g, 3.9 mmol) in THF (20 mL) at −78° C. Stir for 30 min, add acetic acid (225 μL, 3.9 mmol) and stir for 30 min. Warm to room temperature, add ethyl acetate and extract with saturated aqueous ammonium chloride, and saturated aqueous sodium bicarbonate. Dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 0:100 to 15:85 ethyl acetate:hexanes) to give the title compound as an oil (430 mg, 47%).

reactant | n-butyllithium | 7.8 mmol, 1.6 M, 4.9 mL | C(CCC)[Li]
reactant | 2,2,2-trifluoroethyl-p-toluene sulfonate | 3.9 mmol, 1.0 g | FC(COS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C9H9F3O3S
reactant | acetic acid | 3.9 mmol, 225 μL | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Toluene-4-sulfonic acid 2,2-difluorovinyl ester | 430 mg, 47% | FC(=COS(=O)(=O)C1=CC=C(C=C1)C)F | C9H8F2O3S
